US07276592B2
1,5-Anhydro-2-(5-aminoallyl-uracil-1yl)-2,3-dideoxy-D-arabino-hexitol 6 triphosphate
100 mg (0.19 mmol)of 1,5-Anhydro-2-(uracil-1yl)-2,3-dideoxy-D-arabino-hexitol 6 triphosphate and 106 mg (0.33 mmol) mercury II acetate were dissolved in 5 ml 0.1 M sodium acetate buffer pH5 The mixture was stirred for 4 h at 50° C. after cooling to room temperature the mixture was diluted with 40 ml water. A freshly prepared allylamine acetate solution. (0.77 ml (13 mmol) were neutralized with 4M acetic acid) and 150 mg (1.5 mmol) dipotassium tetrachloropalladinate were added and the mixture was stirred for 24 h at room temperature. The reaction mixture was filtered through a 0.45 μm membrane filter and the filtrate was applied on a DEAE-Sephadex column and it was eluated with a gradient from 0.1-1 M Trieethylammoniumbicarbonate pH8 monitoring at 260 nm. The major UV peak was collected (Ninhydrine reaction positive) and further purified by reversed phase chromatography with a gradient from buffer 100% A: 0.1M triethylammonium acetate pH 8.0 to 100% buffer B: 0.1 M triethylammonium acetate/Acetonitril 1:1 monitoring at 260 nm on a RP 18 Hypersil column) The fractions containing the aminoallyl triphosphate were collected and evaporated under vacuum. The presence of the aminogroup was verified by ninhydrine reaction Excess triethylammonium-acetate was removed by several coevaporations with water. Yield 80 mg

reactant | 1,5-Anhydro-2-(uracil-1yl)-2,3-dideoxy-D-arabino-hexitol 6 triphosphate | 0.19 mmol, 100 mg | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](CO1)N1C(=O)NC(=O)C=C1)O | C10H17N2O14P3
reactant | allylamine acetate | C(C)(=O)O.C(C=C)N
reactant | acetic acid | 4M | C(C)(=O)O | C2H4O2
solvent | sodium acetate | 0.1 M, 5 ml, pH5 | C(C)(=O)[O-].[Na+]
solvent | water | 40 ml | O | H2O
product | 1,5-Anhydro-2-(5-aminoallyl-uracil-1yl)-2,3-dideoxy-D-arabino-hexitol 6 triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](CO1)N1C(=O)NC(=O)C(=C1)CC=CN)O | C13H22N3O14P3
